US09126950B2
Synthesis of tert-butyl (3-((2-chloro-5-fluoropyrimidin-4-yl)amino)phenyl)carbamate
2,4-Dichloro-5-fluoropyrimidine (800 mg, 4.8 mmoL), tert-butyl (3-aminophenyl)carbamate (996 mg, 4.8 mmoL) and Hunig's base (948 uL, 5.75 mmoL) were dissolved in THF (20 mL). The reaction mixture was heated at reflux overnight. After cooling, partitioned between water/brine (10 mL), agitated and separated the layers. Dried organic phase over sodium sulfate, and the solvent was removed via rotary evaporation. Titration with EtOAc and Heptane gave after filtration a white solid, 1 g. LC/MS (RT=2.03/(M+1)) 339.1.

reactant | 2,4-Dichloro-5-fluoropyrimidine | 800 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | tert-butyl (3-aminophenyl)carbamate | 996 mg | NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C11H16N2O2
reactant | Hunig's base | 948 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl (3-((2-chloro-5-fluoropyrimidin-4-yl)amino)phenyl)carbamate | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O)F | C15H16ClFN4O2
